US05618941
Ethyl 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl],5-(4-fluorophenylmethyl)benzenepropanoate
4-chlorobenzenesulphonyl chloride (352 mg) was added portionwise to a stirred solution of ethyl 3-(2-aminoethyl)-5-[(4-fluorophenyl)methyl]benzenepropanoate (500 mg) and triethylamine (0.25 ml) in dry dichloromethane (5 ml) at room temperature. The solution was stirred at room temperature for 5 hours and then washed with water and dried (MgSO4). The solvent was evaporated and the residue was chromatographed on silica gel. Elution with dichloromethane first gave impurity followed by pure product. The product fractions were combined and evaporated to give the title compound as an oil (560 mg); Rf 0.2 (SS 3). Found: C,62.08; H,5.47; N,2.73. C26H27ClFNO4S requires C,61.96; H,5.40; N,2.78%.

reactant | 4-chlorobenzenesulphonyl chloride | 352 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | ethyl 3-(2-aminoethyl)-5-[(4-fluorophenyl)methyl]benzenepropanoate | 500 mg | NCCC=1C=C(C=C(C1)CC1=CC=C(C=C1)F)CCC(=O)OCC | C20H24FNO2
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Ethyl 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl],5-(4-fluorophenylmethyl)benzenepropanoate | 560 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)CC1=CC=C(C=C1)F)CCC(=O)OCC | C26H27ClFNO4S
